US07700641B2
Synthesis of 1′-(pyridin-2-ylmethyl)-4′-pyrimidin-5-yl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4, and making non-critical variations using 4′-bromo-1′-(pyridin-2-ylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and pyrimidin-5-ylboronic acid to replace [6-(dimethylamino)pyridin-3-yl]boronic acid, the title compound was obtained (16%) as a colorless solid: mp>200° C.; 1H NMR (300 MHz, CDCl3) δ 9.09 (s, 1H), 8.59 (d, 1H), 8.14 (s, 2H), 7.74 (t, 1H), 7.67 (d, 1H), 7.63 (d, 1H), 7.52 (d, 1H), 7.47-7.42 (m, 1H), 7.37 (d, 1H), 7.30 (d, 1H), 7.09 (d, 1H), 6.82 (d, 1H), 6.62 (s, 1H), 6.07 (s, 1H), 5.18 (ABq, 2H), 4.62 (ABq, 2H), 4.62-4.48 (m, 2H), 3.02 (t, 2H); MS (ES+) m/z 449.5 (M+1).

reactant | 4′-bromo-1′-(pyridin-2-ylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)C1=C(OC3)C=C3OCCC3=C1 | C23H17BrN2O3
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | pyrimidin-5-ylboronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | [6-(dimethylamino)pyridin-3-yl]boronic acid | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
product | 1′-(pyridin-2-ylmethyl)-4′-pyrimidin-5-yl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | N1=C(C=CC=C1)CN1C(C2(C3=C(C=CC=C13)C=1C=NC=NC1)C1=C(OC2)C=C2OCCC2=C1)=O | C27H20N4O3
